US07713994B2
6-Bromo-4-{[(5-hydroxy-4-oxo-4H-pyran-2-ylmethyl)-amino]-methylene}-4H-isoquinoline-1,3-dione
A mixture of 2-aminomethyl-5-hydroxy-pyran-4-one (106 mg, 0.75 mmole), 4 mL of N,N-dimethylformamide and 4-methoxymethylene-6-bromo-4H-isoquinoline-1,3-dione (212 mg, 0.75 mmole) is stirred for one hour at ambient temperature. The reaction mixture is evaporated to dryness, dissolved in 7.5% methanol in chloroform passed through Florisil eluting with 7.5% methanol in chloroform. The eluate is evaporated, treated with acetonitrile, the resulting solid filtered and dried to give an off white solid, 220 mg, (75%), mp 293-7° C. dec; MS (ES+): m/z 391 (M+H).

reactant | 2-aminomethyl-5-hydroxy-pyran-4-one | 0.75 mmole, 106 mg | NCC=1OC=C(C(C1)=O)O | C6H7NO3
reactant | 4-methoxymethylene-6-bromo-4H-isoquinoline-1,3-dione | 0.75 mmole, 212 mg | COC=C1C(NC(C2=CC=C(C=C12)Br)=O)=O | C11H8BrNO3
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 6-Bromo-4-{[(5-hydroxy-4-oxo-4H-pyran-2-ylmethyl)-amino]-methylene}-4H-isoquinoline-1,3-dione | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=CNCC=1OC=C(C(C1)=O)O | C16H11BrN2O5
